US05424325
Preparation of (S)-3-tert-butoxycarbonylamino-1-furfurylthio-2-heptanone (Compound No. 58 in Table 1)
6.54 g of (S)-3-tert-butoxycarbonylamino-l-chloro-2-heptanone and 3.11 g of furfuryl mercaptan were dissolved in 200 ml of tetrahydrofuran, to which 13 ml solution of 2N sodium hydroxide was added. The reaction solution was stirred at a room temperature for 17 hours and a sodium hydrogencarbonate solution was then added thereto. The solution was extracted with ethyl acetate. The extracted solution was washed with a saturated sodium chloride solution and dried over magnesium sulfate, which was then filtered, concentrated and purified by the silica gel column chromatography (eluent: 10% ethyl acetate containing hexane). The object of 7.82 g was obtained.

reactant | (S)-3-tert-butoxycarbonylamino-l-chloro-2-heptanone | 6.54 g | C(C)(C)(C)OC(=O)N[C@H](C(CCl)=O)CCCC | C12H22ClNO3
reactant | furfuryl mercaptan | 3.11 g | C(C1=CC=CO1)S | C5H6OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | (S)-3-tert-butoxycarbonylamino-1-furfurylthio-2-heptanone | C(C)(C)(C)OC(=O)N[C@H](C(CSCC1=CC=CO1)=O)CCCC | C17H27NO4S
